US08168639B2
3.5 grams (15 mmol) of 3-carboethoxy-β-carboline were suspended in 300 ml THF, 2.7 grams (75 mmol) sodium borohydride were added and the mixture was stirred at room temperature for 12 hours. The mixture was then cooled, 50 ml water were added and the resulting mixture was stirred overnight. The solvent was evaporated under reduced pressure and water (300 ml) was again added. The aqueous suspension was extracted with dichloromethane, followed by ethylacetate, the organic extracts were combined, and the solvent was evaporated under reduced pressure. The remaining residue was purified by column chromatography on silica gel, using and a 9:1 mixture of ethylacetate and methanol as eluent, to give 3-(hydroxymethyl)-β-carboline (2.5 grams, 81% yield).

reactant | 3-carboethoxy-β-carboline | 15 mmol, 3.5 grams | C(=O)(OCC)C=1N=CC=2NC3=CC=CC=C3C2C1 | C14H12N2O2
reactant | sodium borohydride | 75 mmol, 2.7 grams | [BH4-].[Na+]
reactant | water | 50 ml | O | H2O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 3-(hydroxymethyl)-β-carboline | 2.5 grams, 81% yield | OCC=1N=CC=2NC3=CC=CC=C3C2C1 | C12H10N2O
